US04568677
Ethyl 4-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetoacetate
A solution of 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetic acid (4.24 g) in tetrahydrofuran (60 ml) was treated with ice-cooling with carbonyldiimidazole (1.70 g) and the mixture stirred at 0° C. for 2.25 hours. This solution was added dropwise over 10 minutes to a solution of the sodium salt of 2,2-dimethyl-1,3-dioxane-4,6-dione in dimethylformamide (prepared by stirring a mixture of 2,2-dimethyl-1,3-dioxane-4,6-dione (1.44 g) and sodium hydride (0.30 g; 80% dispersion in oil) in dimethylformamide (30 ml) with ice-cooling for 30 minutes) and the mixture stirred for 16 hours at room temperature and then evaporated. The residue was dissolved in dichloromethane, washed twice with 1M hydrochloric acid and water, dried (MgSO4), and evaporated. A solution of the residual oil (6 g) in ethanol (50 ml) was heated under reflux for 6 hours and evaporated. The residue was dissolved in diethyl ether, washed twice with 10% aqueous sodium carbonate and once with saturated aqueous sodium chloride, dried (MgSO4), and evaporated. The residue was purified by chromatography on silica (30 g) using hexane plus 5-15% v/v ethyl acetate as eluant. Appropriate fractions were combined and evaporated and the residue crystallised from ethanol to give the title compound (1.5 g), m.p. 88°-89° C. Found: C,58.18; H,5.73; N,2.85. C24H28ClNO8 requires: C,58.36; H,5.71; N,2.84%.

reactant | 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetic acid | 4.24 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC(=O)O)C(=O)OCC | C20H22ClNO7
reactant | carbonyldiimidazole | 1.70 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | sodium | [Na] | Na
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 1.44 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | sodium hydride | 0.30 g | [H-].[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetoacetate | 1.5 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC(CC(=O)OCC)=O)C(=O)OCC | C24H28ClNO8
